US08859571B2
A solution of methyl 6-amino-2,3,4-tris(methyloxy)benzoate (2.87 g, 11.90 mmol) and formamidine acetate (3.72 g, 35.7 mmol) in 2-methoxyethanol (25 mL) was stirred at 125° C. for 2 hrs before being concentrated. The residue was suspended in water and the solid was collected by filtration, washed with water, and dried under vacuum (45° C.) to give 5,6,7-tris(methyloxy)-4(1H)-quinazolinone (1 g, 34%) as a light brown solid. MS (m/z) 237.1 (M+H+).

reactant | methyl 6-amino-2,3,4-tris(methyloxy)benzoate | 11.90 mmol, 2.87 g | NC1=CC(=C(C(=C1C(=O)OC)OC)OC)OC | C11H15NO5
reactant | formamidine acetate | 35.7 mmol, 3.72 g | C(C)(=O)O.C(=N)N
solvent | 2-methoxyethanol | 25 mL | COCCO | C3H8O2
product | 5,6,7-tris(methyloxy)-4(1H)-quinazolinone | 1 g, 34% | COC1=C2C(N=CNC2=CC(=C1OC)OC)=O | C11H12N2O4
